US04383945
To a solution of (3R,4R)-3-benzyloxycarbonylamino-4-(2,2-dimethoxyethyl)azetidin-2-one (2.15 g) in acetic acid (35.2 ml) were added dimethylsulfide (2 ml) and water (8.8 ml) at ambient temperature and the mixture was heated at 50° C. for 4.5 hours. The reaction mixture was evaporated in vacuo and the residue was dissolved in xylene (40 ml). The mixture was evaporated in vacuo and the residue was chromatographed on silica gel (10 g) eluting with a mixture of methylene chloride and acetone (5:1-2:1) to give a crystalline solid. This crude crystals were washed with ether and dried over phosphorous pentoxide to give (3R,4R)-3-benzyloxycarbonylamino-4-(2-oxoethyl)azetidin-2-one (863 mg).

reactant | (3R,4R)-3-benzyloxycarbonylamino-4-(2,2-dimethoxyethyl)azetidin-2-one | 2.15 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N[C@@H]1CC(OC)OC)=O | C15H20N2O5
reactant | dimethylsulfide | 2 ml | CSC | C2H6S
reactant | water | 8.8 ml | O | H2O
solvent | acetic acid | 35.2 ml | C(C)(=O)O | C2H4O2
product | (3R,4R)-3-benzyloxycarbonylamino-4-(2-oxoethyl)azetidin-2-one | 863 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N[C@@H]1CC=O)=O | C13H14N2O4
